US04595677
850 mg of Z-Sta-Val-Tyr-Lys(Boc)-OMe are dissolved in 17 ml of 95% strength MeOH and hydrogenated with 85 mg of Pd-on-carbon with CO2 -absorption until saturation (approximately 1 hour). The catalyst is filtered off, the filtrate is concentrated to dryness and dried in a high vacuum at 40° yielding H-Sta-Val-Tyr-Lys(Boc)-OMe in the form of an amorphous powder; Rf (E)=0.58; Rf (H)=0.50. The resulting product is further reacted in stage 1.10.

reactant | Z-Sta-Val-Tyr-Lys(Boc)-OMe | 850 mg | N([C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C42H63N5O11
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | CO | CH4O
product | H-Sta-Val-Tyr-Lys(Boc)-OMe | N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C34H57N5O9
